US05225207
The procedure is as in Example 1, but starting from 2-amino-2-cyano-bicyclo[3.2.1]octane (8.05 g), in the form of the mixture of the exo and endo racemates in a ratio of (8/1), in diethyl ether (150 cc) and acetic anhydride (5.6 cc); 2-acetylamino-2-cyano-bicyclo[3.2.1]octane (10.16 g) is obtained in the form of fine white crystals which melt at 78°-80° C.

reactant | 2-amino-2-cyano-bicyclo[3.2.1]octane | 8.05 g | NC1(C2CCC(CC1)C2)C#N | C9H14N2
reactant | diethyl ether | 150 cc | C(C)OCC | C4H10O
solvent | acetic anhydride | 5.6 cc | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylamino-2-cyano-bicyclo[3.2.1]octane | 10.16 g | C(C)(=O)NC1(C2CCC(CC1)C2)C#N | C11H16N2O
